Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamides) / Sulfasalazine
 
Attending: ___.
 
Chief Complaint:
The patient has a diagnosis of ulcerative colitis.  Following 
recurrent relapses he has decided to go forward with elective 
surgery.
 
Major Surgical or Invasive Procedure:
___ - Ileoanal pouch/loop ileostomy

 
History of Present Illness:
The patient has a history of ulcerative colitis since prior to 
___.  He has been on trials of steroids, azothiaprin, cipro, 
flagyl, remicade but continued to have flares.  
 
Past Medical History:
Ulcerative Colitis
 
Social History:
___
Family History:
Many family members with UC, Father had polyps and mother had 
breast CA
 
Physical Exam:
On day of admission
T 98.2  HR 75  BP 130/72  RR 12  100%RA
Gen - thin, young male, alert and oriented
___- RRR
Pulm - CTA b/l
Abd - S/NT/ND

 
Pertinent Results:
___ 01:45PM   WBC-10.0# RBC-4.21* HGB-12.5* HCT-37.5* 
MCV-89 MCH-29.7 MCHC-33.4 RDW-12.2
___ 01:45PM   GLUCOSE-175* UREA N-11 CREAT-1.0 SODIUM-139 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-28 ANION GAP-11
___ 01:45PM   CALCIUM-8.7 PHOSPHATE-4.2 MAGNESIUM-1.7
 
Brief Hospital Course:
The patient underwent a ileoanal pouch and loop ileostomy on 
___.  He tolerated the procedure well, was extubated and 
transferred to the PACU and then to the surgical floor for 
continued monitoring.  He was on a PCA for pain relief, remained 
NPO, IVF for hydration, foley catheter in place.

___ - IVF changed to maint fluids, cont PCA pain medication, 
foley catheter in place

___ - ___ catheter discontinued, started on sips

___ - started on clear liquid diet, PCA discontinued, started 
on PO pain medication

___ - continued IVF for high ostomy output, started imodium and 
metamucil wafers

___ - made NPO due to continued emesis - KUB showed ileus

___ - continued NPO, no episodes of vomiting

___ - ileostomy output decreased, emesis resolved, started on PO 
diet again

___ - ileostomy output controlled, tolerating PO diet, home 
regimen for ileostomy care discussed, pain well-controlled, 
ambulating without assistance, voiding freely; ok to discharge 
to home with ___ for ostomy care
 
Medications on Admission:
prednisone 40', protonix 40', ativan prn, MVI, calcium/vitamin 
D, hydrocortisone enema nightly
 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day).
Disp:*150 Capsule(s)* Refills:*4*
3. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.
Disp:*30 Tablet(s)* Refills:*0*
4. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.
Disp:*45 Tablet(s)* Refills:*0*
5. Psyllium 1.7 g Wafer Sig: One (1) Wafer PO DAILY (Daily).
Disp:*30 Wafer(s)* Refills:*2*
6. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day).
Disp:*120 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ulcerative colitis

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, diarrhea 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your skin, or the whites of your eyes become yellow.
* Your pain is not improving within ___ hours or becoming 
progressively worse, or inadequately controlled with the 
prescribed pain medication.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

Incision Care:
*You may shower. Pat incision dry. 
*Avoid swimming and baths until further instruction at your 
followup appointment.
*Leave the steri-strips on. They will fall off on their own, or 
be removed during your followup.  
*Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

Monitoring Ostomy Output / Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 500mL to 1000mL per day. 
*If Ostomy output exceeds 1 liter, take 4mg of Imodium, repeat 
2mg with each episode of loose stool. Do not exceed 16mg in 24 
hours.

 
Followup Instructions:
___